US08309721B2
Synthesis of 2-[2-(1H-imidazol-1-yl)ethylamino]-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzamide
The process is carried out as in stage 3 of Example 3, but using 150 mg of 2-fluoro-4-[4-(quinolin-3-yl)carbazol-9-yl]benzonitrile, obtained according to stage 1 of Example 32, 150.5 mg of potassium carbonate, 1.336 g of 2-(1H-imidazol-1-yl)ethylamine dihydrochloride in 2 ml of dimethyl sulphoxide. 0.69 ml of a 1M aqueous solution of sodium hydroxide, 0.667 ml of a 30% aqueous solution of hydrogen peroxide and 3 ml of ethanol are then added to the reaction medium. After treatment as in stage 3 of Example 3, and then purification by flash chromatography on silica gel, elution being carried out with a mixture of dichloromethane and ethanol (90/10 by volume), followed by crystallization from 1 ml of ethyl acetate and 3 ml of diisopropyl ether, 130 mg of 2-[2-(1H-imidazol-1-yl)ethylamino]-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzamide are thus obtained in the form of a beige solid, the characteristics of which are the following:

reactant | 2-fluoro-4-[4-(quinolin-3-yl)carbazol-9-yl]benzonitrile | 150 mg | FC1=C(C#N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C=1C=NC2=CC=CC=C2C1 | C28H16FN3
reactant | potassium carbonate | 150.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(1H-imidazol-1-yl)ethylamine dihydrochloride | 1.336 g | Cl.Cl.N1(C=NC=C1)CCN
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | dimethyl sulphoxide | 2 ml | CS(=O)C | C2H6OS
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 2-[2-(1H-imidazol-1-yl)ethylamino]-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzamide | N1(C=NC=C1)CCNC1=C(C(=O)N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C=1C=NC2=CC=CC=C2C1 | C33H26N6O
